US05371063
Dimethylaminosulphonyl chloride (17.2 g)was added to a mixture of methyl salicylate (15.2 g) and potassium carbonate (27.6 g) in acetonitrile. The mixture was stirred at room temperature for 1 hour. TDA-1 (2.0 g) was added and the mixture stirred at room temperature for 24 hours. The mixture was filtered and the filtrate was evaporated to dryness. The residue was dissolved in dichloromethane, washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was triturated with ether. The solid was filtered off and purified by chromatography eluted with dichloromethane to give methyl 2-(dimethylaminosulphonyloxy)benzoate (17.4 g) as a white solid m.p. 75.5°-76.5° C.

reactant | Dimethylaminosulphonyl chloride | 17.2 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | methyl salicylate | 15.2 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | TDA-1 | 2.0 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
product | methyl 2-(dimethylaminosulphonyloxy)benzoate | 17.4 g | CN(S(=O)(=O)OC1=C(C(=O)OC)C=CC=C1)C | C10H13NO5S
